.title kicad schematic

.include MC14040B_sub.sub
r2 q12 gnd 1k
r8 q9 gnd 1k
r4 q11 gnd 1k
r6 q10 gnd 1k
r1 q6 gnd 1k
* u25 net-_u25-pad1_ clock gnd net-_u25-pad4_ net-_u25-pad5_ net-_u25-pad6_ adc_bridge_3
* u26 net-_u26-pad1_ net-_u26-pad2_ net-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u26-pad6_ q1 q2 q3 q4 q5 q6 dac_bridge_6
* u1 clock plot_v1
* u28 q6 plot_v1
r7 q3 gnd 1k
r5 q4 gnd 1k
r3 q5 gnd 1k
* u30 q5 plot_v1
* u32 q4 plot_v1
* u36 q2 plot_v1
* u38 q1 plot_v1
* u34 q3 plot_v1
r11 q1 gnd 1k
r9 q2 gnd 1k
* u31 q11 plot_v1
* u29 q12 plot_v1
* u27 net-_u27-pad1_ net-_u27-pad2_ net-_u27-pad3_ net-_u27-pad4_ net-_u27-pad5_ net-_u27-pad6_ q7 q8 q9 q10 q11 q12 dac_bridge_6
x1 net-_u27-pad6_ net-_u26-pad6_ net-_u26-pad5_ net-_u27-pad1_ net-_u26-pad4_ net-_u26-pad3_ net-_u26-pad2_ net-_u25-pad6_ net-_u26-pad1_ net-_u25-pad5_ net-_u25-pad6_ net-_u27-pad3_ net-_u27-pad2_ net-_u27-pad4_ net-_u27-pad5_ net-_u25-pad4_ MC14040B_sub
v2 clock gnd pulse(0v 5v 10ms 0 0 10ms 20ms)
v1 net-_u25-pad1_ gnd  dc 5v
r10 q8 gnd 1k
* u39 q7 plot_v1
r12 q7 gnd 1k
* u37 q8 plot_v1
* u35 q9 plot_v1
* u33 q10 plot_v1
a1 [net-_u25-pad1_ clock gnd ] [net-_u25-pad4_ net-_u25-pad5_ net-_u25-pad6_ ] u25
a2 [net-_u26-pad1_ net-_u26-pad2_ net-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u26-pad6_ ] [q1 q2 q3 q4 q5 q6 ] u26
a3 [net-_u27-pad1_ net-_u27-pad2_ net-_u27-pad3_ net-_u27-pad4_ net-_u27-pad5_ net-_u27-pad6_ ] [q7 q8 q9 q10 q11 q12 ] u27
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u25 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, Ngspice Name: dac_bridge
.model u26 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, Ngspice Name: dac_bridge
.model u27 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 4000e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clock)
plot v(q6)
plot v(q5)
plot v(q4)
plot v(q2)
plot v(q1)
plot v(q3)
plot v(q11)
plot v(q12)
plot v(q7)
plot v(q8)
plot v(q9)
plot v(q10)
.endc
.end
